US05719141
Reaction of 1.41 g of 4-methoxy-2-nitrophenol, 3.04 g potassium carbonate and 3.61 g of iodoacetamide analogously to the process described in Example 55) gives 2-carbamoylmethoxy-5-methoxynitrobenzene: mp 190°-1° C.; Rf (O)=0.58; FAB-MS: (M+H)+ =227; anal. calc. for C9H10N2O5 : C47.79%, H4.46%, N12.38%; found C47.90%, H4.48%, N12.58%.

reactant | 4-methoxy-2-nitrophenol | 1.41 g | COC1=CC(=C(C=C1)O)[N+](=O)[O-] | C7H7NO4
reactant | potassium carbonate | 3.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoacetamide | 3.61 g | ICC(=O)N | C2H4INO
product | 2-carbamoylmethoxy-5-methoxynitrobenzene | C(N)(=O)COC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C9H10N2O5
